US09034866B2
Synthesis of (±)-9-fluoro-10-(3-hydroxy-3-(1H-imidazol-2-yl)but-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
A solution of 9-fluoro-10-(3-hydroxy-3-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)but-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide (200 mg, 0.39 mmol, 1.00 equiv) and TFA (1.5 mL) in dichloromethane (4.5 mL) was stirred for 5 h at room temperature. The resulting solution was diluted with 50 mL of dichloromethane. The pH value of the solution was adjusted to 9 with saturated potassium carbonate. The resulting mixture was washed with water, dried over sodium sulfate, and concentrated under vacuum. The residue was applied onto a silica gel column with DCM/MeOH (10/1) to give the titled compound as an off-white solid.

reactant | 9-fluoro-10-(3-hydroxy-3-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)but-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 0.39 mmol, 200 mg, 1.00 equiv | FC1=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C=C1C#CC(C)(C=1N(C=CN1)COCC[Si](C)(C)C)O | C25H30FN5O4Si
reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 4.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (±)-9-fluoro-10-(3-hydroxy-3-(1H-imidazol-2-yl)but-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | FC1=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C=C1C#CC(C)(C=1NC=CN1)O | C19H16FN5O3
